US06528525B1
(b) 6-Isopropoxynicotinic acid
In a similar manner to that described in Example 2, a reaction was carried out using isopropyl 6-isopropoxynicotinate (130 mg), which is the product of Reference example 18(a) and aqueous sodium hydroxide solution (1N, 0.87 ml) and the reaction mixture was treated to afford the title compound (106 mg) as crystals.

reactant | isopropyl 6-isopropoxynicotinate | 130 mg | C(C)(C)OC1=NC=C(C(=O)OC(C)C)C=C1 | C12H17NO3
reactant | sodium hydroxide | 1N, 0.87 ml | [OH-].[Na+]
product | 6-Isopropoxynicotinic acid | 106 mg | C(C)(C)OC1=NC=C(C(=O)O)C=C1 | C9H11NO3
